US07405219B2
3-(1H-Benzotriazol-5-ylmethyl)-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (Example 158)
A solution of tert-butyl 5-(5-amino-7-(2-furyl)-3H-triazolo[4,5-d]pyrimidin-3-yl)methyl-1H-benzotriazol-1-carboxylate (as a mixture with the 6-substituted regioisomer) (135 mg, 0.31 mmol) in MeOH (5 mL) and THF (5 mL was treated with 40% aqueous dimethylamine (0.176 mL, 1.56 mmol), refluxed for 25 min, concentrated in vacuo and the resulting solid triturated with ether, filtered, triturated with MeOH, filtered and dried to give the title compound (31 mg, 30%) as a yellow solid.

reactant | tert-butyl 5-(5-amino-7-(2-furyl)-3H-triazolo[4,5-d]pyrimidin-3-yl)methyl-1H-benzotriazol-1-carboxylate | NC=1N=C(C2=C(N1)N(N=N2)CC2=CC1=C(N(N=N1)C(=O)OC(C)(C)C)C=C2)C=2OC=CC2 | C20H19N9O3
reactant | THF | C1CCOC1 | C4H8O
reactant | dimethylamine | 1.56 mmol, 0.176 mL | CNC | C2H7N
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(1H-Benzotriazol-5-ylmethyl)-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 31 mg, 30% | N1N=NC2=C1C=CC(=C2)CN2N=NC1=C2N=C(N=C1C=1OC=CC1)N | C15H11N9O
